US04520193
2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (10.1 g) is added to a solution of p-toluenesulphonic acid monohydrate (8.15 g) in acetonitrile (170 cc), warmed to 35° C., and the mixture is left at 35° C. for 1 hour, whilst stirring. The reaction mixture is then poured into a stirred mixture of a saturated solution of sodium bicarbonate (150 cc) and ethyl acetate (300 cc). The organic phase is then washed with distilled water (100 cc), dried over magnesium sulphate and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields crude 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (7 g) in the form of a thick oil which can be used without purification.

reactant | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 10.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1CC(=O)C1=CC=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C33H32N2O7S
reactant | p-toluenesulphonic acid monohydrate | 8.15 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 150 cc | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 170 cc | C(C)#N | C2H3N
product | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 7 g | NC1C2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)C1=CC=CC=C1)=O | C28H24N2O5S
